US07759351B2
It was prepared following the same procedure as in Example 1, starting from 370 mg of 7-methoxy-2-methylquinoline-3-carboxylic acid and 350 mg of N-[[(5S)-3-[3-fluoro-4-(4-thiomorpholinyl)-phenyl]-2-oxo-5-oxazolidinyl]methyl]amine. After similar work-up, 244 mg were obtained corresponding to the desired 7-methoxy-2-methyl-N-[[(5S)-3-[3-fluoro-4-(4-thiomorpholinyl)-phenyl]-2-oxo-5-oxazolidinyl]methyl]-3-quinolinecarboxamide (Yield=43%).

reactant | 7-methoxy-2-methylquinoline-3-carboxylic acid | 370 mg | COC1=CC=C2C=C(C(=NC2=C1)C)C(=O)O | C12H11NO3
reactant | N-[[(5S)-3-[3-fluoro-4-(4-thiomorpholinyl)-phenyl]-2-oxo-5-oxazolidinyl]methyl]amine | 350 mg | FC=1C=C(C=CC1N1CCSCC1)N1C(O[C@H](C1)CN)=O | C14H18FN3O2S
product | 7-methoxy-2-methyl-N-[[(5S)-3-[3-fluoro-4-(4-thiomorpholinyl)-phenyl]-2-oxo-5-oxazolidinyl]methyl]-3-quinolinecarboxamide | Yield=43% | COC1=CC=C2C=C(C(=NC2=C1)C)C(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCSCC1)F | C26H27FN4O4S
